US06268387B1
Step A: 3-Nitro-4-trifluoromethoxybenzoic Acid
A suspension of 4-trifluoromethoxybenzoic acid (TCI, Portland, Oreg.) (1.0 g, 4.9 mmol) in concentrated sulfuric acid (3 mL) was stirred under an inert atmosphere at room temperature until a solution was obtained. Fuming nitric acid (1 mL) was added dropwise. After 20 hours the mixture was poured into water (100 mL) and stirred. After an hour the precipitate was filtered off, rinsed with water and dried to afford the product (0.8 g); m.p. 137-139° C.

reactant | 4-trifluoromethoxybenzoic acid | 4.9 mmol, 1.0 g | FC(OC1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O3
reactant | nitric acid | 1 mL | [N+](=O)(O)[O-] | HNO3
reactant | water | 100 mL | O | H2O
solvent | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
product | 3-Nitro-4-trifluoromethoxybenzoic Acid | 0.8 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4F3NO5
